US09193669B2
Hydrogenation of 2-ethylbutanal and (E)-N-(3-(3-aminophenyl)allyl)-2,2,2-trifluoroacetamide following the method used in Example 31 gave N-(3-(3-(2-ethylbutylamino)phenyl)propyl)-2,2,2-trifluoroacetamide as a colorless oil. Yield (0.5 g, 90%); 1H NMR (400 MHz, DMSO-d6) δ 9.42 (bs, 1H), 6.94 (t, J=7.2 Hz, 1H), 6.38-6.37 (m, 2H), 6.32 (d, J=7.2 Hz, 1H), 5.40 (t, J=5.6 Hz, 1H), 3.21-3.16 (m, 2H), 2.86 (t, J=6.0 Hz, 2H), 2.43 (t, J=7.6 Hz, 2H), 1.77-1.70 (m, 2H), 1.48-1.41 (m, 1H), 1.39-1.31 (m, 4H), 0.85 (t, J=7.6 Hz, 6H).

reactant | 2-ethylbutanal | C(C)C(C=O)CC | C6H12O
reactant | (E)-N-(3-(3-aminophenyl)allyl)-2,2,2-trifluoroacetamide | NC=1C=C(C=CC1)/C=C/CNC(C(F)(F)F)=O | C11H11F3N2O
product | N-(3-(3-(2-ethylbutylamino)phenyl)propyl)-2,2,2-trifluoroacetamide | C(C)C(CNC=1C=C(C=CC1)CCCNC(C(F)(F)F)=O)CC | C17H25F3N2O
